US07276526B2
1-{4-(2,4-Dichloro-phenyl)-2-[1-(2-methoxy-phenyl)-cyclopropyl]-thiazol-5-yl}-ethanone
4-(2,4-Dichloro-phenyl)-2-[1-(2-methoxy-phenyl)-cyclopropyl]-thiazole (30 mg, 0.079 mmol) was dissolved in 1 mL of dry THF and the solution was cooled to −78° C. N-butyllithium (0.044 mL, 0.088 mmol) was added dropwise as a commercial 2M solution in pentane and the reaction stirred for 30 min at −78° C. Acetylchloride (0.056 mL, 0.79 mmol) was added as a neat liquid and the reaction warmed to room temperature with stirring over 1h. Water (1 volume equivalent relative to THF) was added and the THF removed in vacuo. The crude material was then dissolved in 1:1 methanol/DMSO (2 volume equivalents relative to THF) and the desired product purified by reversed phase HPLC/MS using an acetonitrile/water gradient and C18 stationary phase. Yield: 4.4 mg (14%). [MH]+ 418.2, 420.2.

reactant | 4-(2,4-Dichloro-phenyl)-2-[1-(2-methoxy-phenyl)-cyclopropyl]-thiazole | 0.079 mmol, 30 mg | ClC1=C(C=CC(=C1)Cl)C=1N=C(SC1)C1(CC1)C1=C(C=CC=C1)OC | C19H15Cl2NOS
reactant | N-butyllithium | 0.088 mmol, 0.044 mL | [Li+].CCC[CH2-]
reactant | Acetylchloride | 0.79 mmol, 0.056 mL | C(C)(=O)Cl | C2H3ClO
reactant | Water | O | H2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | 1-{4-(2,4-Dichloro-phenyl)-2-[1-(2-methoxy-phenyl)-cyclopropyl]-thiazol-5-yl}-ethanone | ClC1=C(C=CC(=C1)Cl)C=1N=C(SC1C(C)=O)C1(CC1)C1=C(C=CC=C1)OC | C21H17Cl2NO2S
